US05489593
5-Benzyloxycarbonylaminoindole-2-carboxylic acid (I)
Ethyl 5-Benzyloxycarbonylaminoindole-2-carboxylate, (PREPARATION 56, 0.76 g) is dissolved in 1,4-dioxane (5.6 ml) and water (0.56 ml). Crushed potassium hydroxide (0.23 g) is added and the reaction is heated to 50° for 5 hr. The reaction is neutralized by adding 4.05 ml of 1N aqueous hydrochloric acid. The reaction is extracted with THF/chloroform (10/90, 3 ×), saline, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give the title acid, NMR (300 MHz, d4-CD3OD) 7.64, 7.34-7.15, 6.98 and 5.09 δ.

reactant | Ethyl 5-Benzyloxycarbonylaminoindole-2-carboxylate | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)OCC | C19H18N2O4
reactant | potassium hydroxide | 0.23 g | [OH-].[K+]
reactant | hydrochloric acid | 1N, 4.05 ml | Cl | ClH
solvent | 1,4-dioxane | 5.6 ml | O1CCOCC1 | C4H8O2
solvent | water | 0.56 ml | O | H2O
product | 5-Benzyloxycarbonylaminoindole-2-carboxylic acid | C(C1=CC=CC=C1)OC(=O)NC=1C=C2C=C(NC2=CC1)C(=O)O | C17H14N2O4
